US04509972
0.88 g (0.005 mol) of 2-amino-4-methoxypteridine were suspended in 40 ml of methylene chloride and 1.2 g (0.0055 mol) of 2-fluorophenoxysulfonyl isocyanate were added thereto rapidly to obtain a clear solution. The solution was heated to reflux for a short time, thereafter stirred for 10 minutes and then was concentrated by evaporation to dryness. The residue was treated with diisopropyl ether and a little acetone and the mixture was vacuum filtered. The product was dried to obtain 1.95 of N-(4-methoxypteridin-2-yl)-N'-(2-fluorophenoxysulfonyl)-urea in the form of light yellow crystals melting at 135° C.

reactant | 2-amino-4-methoxypteridine | 0.005 mol, 0.88 g | NC1=NC2=NC=CN=C2C(=N1)OC | C7H7N5O
reactant | 2-fluorophenoxysulfonyl isocyanate | 0.0055 mol, 1.2 g | FC1=C(OS(=O)(=O)N=C=O)C=CC=C1 | C7H4FNO4S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxypteridin-2-yl)-N'-(2-fluorophenoxysulfonyl)-urea | COC1=NC(=NC2=NC=CN=C12)NC(=O)NS(=O)(=O)OC1=C(C=CC=C1)F | C14H11FN6O5S
